US06774132B1
Spiro[indoline-3,3′-perhydroazepin]-2-one
Spiro[indoline-3,3′-perhydroazepin]-2-one hydrochloride. The compound from the previous step was hydrogenated in acetic acid over 10% Pd/C at 40 psi H, for 48 h. Evaporation and extractive work-up gave the title compound as a yellow solid (1.51 g). MS (TSP+) m/z: 217 (M+H+, 100) which was converted to the title compound.

reactant | Spiro[indoline-3,3′-perhydroazepin]-2-one hydrochloride | Cl.N1CC2(CCCC1)C(NC1=CC=CC=C12)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | Spiro[indoline-3,3′-perhydroazepin]-2-one | 1.51 g | N1CC2(CCCC1)C(NC1=CC=CC=C12)=O | C13H16N2O
